US06432993B1
(38-1) t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(3-hydroxyphenoxy)phenyl}-N-methylcarbamate
In a similar manner to that described in Example (2-1), a reaction was carried out using t-butyl N-[2-amino-5-(3-hydroxyphenoxy)phenyl]-N-methylcarbamate (0.95 g), 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid (0.89 g), diethyl cyanophosphonate (0.52 g), triethylamine (0.32 g) and anhydrous tetrahydrofuran (30 ml) and the reaction mixture was purified to give the desired product (1.18 g).

reactant | t-butyl N-[2-amino-5-(3-hydroxyphenoxy)phenyl]-N-methylcarbamate | 0.95 g | NC1=C(C=C(C=C1)OC1=CC(=CC=C1)O)N(C(OC(C)(C)C)=O)C | C18H22N2O4
reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 0.89 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | diethyl cyanophosphonate | 0.52 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 0.32 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(3-hydroxyphenoxy)phenyl}-N-methylcarbamate | 1.18 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=CC(=CC=C2)O)N(C(OC(C)(C)C)=O)C)C=C1 | C30H31N3O8S
